US08022062B2
Dissolve 6-{4-(2-methyl-[1,3]dioxolan-2-yl)benzylamino}-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (150 mg, 0.32 mmol) in methanol (5 mL) and add 1N aqueous HCl (1 mL). Stir the solution at ambient temperature for 2 h. Remove the solvent, dissolve the residue in DCM and wash with saturated aqueous NaHCO3. Dry the organic phase over Na2SO4, filter and concentrate. Purify by chromatography on silica gel eluting with hexane/EtOAc (1:0, 9:1, 17:3 and 4:1) to obtain 6-(4-acetyl-benzylamino)-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as an oil (107 mg, 79%). GC-MS m/z/z 424 (M+).

reactant | 6-{4-(2-methyl-[1,3]dioxolan-2-yl)benzylamino}-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.32 mmol, 150 mg | CC1(OCCO1)C1=CC=C(CNC2=C(C=CC=3CCN(CCC32)C(C(F)(F)F)=O)Cl)C=C1 | C23H24ClF3N2O3
reactant | HCl | 1N, 1 mL | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 6-(4-acetyl-benzylamino)-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 107 mg, 79% | C(C)(=O)C1=CC=C(CNC2=C(C=CC=3CCN(CCC32)C(C(F)(F)F)=O)Cl)C=C1 | C21H20ClF3N2O2
